US04353919
6-Chloro-2(3H)-benzothiazolone
4.081 gm (0.02 mol) of 2,6-dichloro-benzothiazole were refluxed for 4 hours in 100 ml of a mixture of equal parts of ethanol and concentrated hydrochloric acid. After distilling the reaction mixture with 100 ml of water, the resulting precipitate was filtered off and washed thoroughly with water. For further purification the precipitate was taken up in aqueous 10% sodium hydroxide, the solution was filtered, and the filtrate was extracted twice with 100 ml each of ether. The aqueous phase was acidified with hydrochloric acid, and the resulting precipitate was collected by suction filtration, washed with water and recrystallized once from ethanol and once from toluene, each time in the presence of activated charcoal. 3.1 gm (83% of theory) of crystals with a melting point of 212°-213° C. were obtained. According to mixed melting point determination, elemental analysis, and thin-layer chromatography, the product was identical to the product obtained in Example 6.

reactant | 2,6-dichloro-benzothiazole | 0.02 mol, 4.081 gm | ClC=1SC2=C(N1)C=CC(=C2)Cl | C7H3Cl2NS
reactant | hydrochloric acid | Cl | ClH
reactant | ethanol | C(C)O | C2H6O
product | 6-Chloro-2(3H)-benzothiazolone | ClC1=CC2=C(NC(S2)=O)C=C1 | C7H4ClNOS
